* First SKY130A transient smoke test for the SRAM 6T bitcell.
* Requires PDK_ROOT to point to a directory containing sky130A/.
* The continuous model smoke uses WPU=WACC=0.42um because this runtime
* rejects the initial WPU=0.21um/WACC=0.30um trial; the sizing remains open.
.title bitcell_6t_hold_read_write_tt

.lib "/opt/pdks/sky130A/libs.tech/combined/continuous/sky130.lib.spice" tt

VDD vdd 0 1.8
* Both bitlines are precharged for the first read. BL is then driven low
* for the write pulse; BLB remains high.
VBL  bl  0 PWL(0 1.8 19n 1.8 30n 1.8 49n 1.8 50n 0 70n 0 71n 1.8)
VBLB blb 0 1.8
VWL  wl  0 PULSE(0 1.8 20n 50p 50p 10n 30n)

* Flattened device view for the continuous SKY130 model set. The reusable
* X-subcircuit is kept in ../cells/bitcell_6t.spice for the PDK netlist flow.
XPU_L Q  QB VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=0.42 nf=1
XPU_R QB Q  VDD VDD sky130_fd_pr__pfet_01v8 l=0.15 w=0.42 nf=1
XPD_L Q  QB 0   0   sky130_fd_pr__nfet_01v8 l=0.15 w=0.42 nf=1
XPD_R QB Q  0   0   sky130_fd_pr__nfet_01v8 l=0.15 w=0.42 nf=1
XACC_L Q  WL BL  0   sky130_fd_pr__nfet_01v8 l=0.15 w=0.42 nf=1
XACC_R QB WL BLB 0   sky130_fd_pr__nfet_01v8 l=0.15 w=0.42 nf=1

.ic V(Q)=1.8 V(QB)=0
.options ngbehavior=ps method=gear reltol=1e-4 vabstol=1e-9 iabstol=1e-12
.tran 10p 90n 0 10p uic

.meas tran q_hold FIND V(Q) AT=10n
.meas tran qb_hold FIND V(QB) AT=10n
.meas tran bl_read FIND V(bl) AT=29n
.meas tran blb_read FIND V(blb) AT=29n
.meas tran q_read_min MIN V(Q) FROM=20n TO=30n
.meas tran q_after_write FIND V(Q) AT=70n
.meas tran qb_after_write FIND V(QB) AT=70n

.control
run
write tb_bitcell_6t_tt.raw all
quit
.endc
.end
